
.SUBCKT  diffpairn  vcc    gnd   in1   in2
*in1=pos
*in2=neg

*R1    vcc   n1   1MEG
R1    vcc   n1   411k

M1    n1    in1  out  0  ptft  W=30u  L=6u
M2    n1    in2  n2   0  ptft  W=30u  L=6u

M3    out   n2   gnd  0  ntft  W=30u  L=6u
M4    n2    n2   gnd  0  ntft  W=30u  L=6u




.ENDS diffpairn


