
.SUBCKT diffpairnd vcc gnd  in1  in2

.PARAM driver_load=1MEG

Xdiff   vcc  gnd  in1  in2  diffpairn
R1      vcc  out    driver_load
M1      out  Xdiff.out gnd  gnd  ntft  W=60u  L=6u


.ENDS diffpairnd

