
.SUBCKT probe_node ACnode DCnode  GNDnode

.PARAM DCval=0
.PARAM ACval=0

Vac  ACnode  GNDnode  DC  DCval  AC  ACval

Vdc  DCnode  0  DC DCval AC DCval
Cdc  DCnode  0  1aF


.ENDS probe_node
