
.SUBCKT schmitt_diffpair  vcca  gnda  vccd  gndd  in


  Xstage1  vcca  gnda  in        diffpairjpl
  Xstage2  vccd  gndd  Xstage1.n2  Xstage1.n1  diffpairnd
  Vout     Xstage2.out  out  0


.ENDS schmitt_diffpair

