
.SUBCKT  amp_fcasc2_rc   vcc   gnd   in   m2b   m3b   m4b  m5b

M1   n1    n2    gnd   gnd   ntft    W=50u  L=10u
M2   n4    m2b   gnd   gnd   ntft    W=10u  L=10u
M3   n1    m3b   n4    vcc   ptft    W=20u  L=10u
M4   vcc   m4b   n1    vcc   ptft    W=20u  L=10u
.PARAM r5val=10MEG
.PARAM r6val=200MEG

R5   n4   n3  r5val
R6   n3   n2  r6val
* placeholder for TFT count for variations (to match cutoff version)
Mcutoff  gnd gnd gnd  gnd  ntft  W=6u  L=6u

Vao  n3  out  0

.PARAM VC1=0.1p
.PARAM VC2=0.5p

C1   n3    gnd   VC1
C2   in    n2    VC2


.ENDS amp_fcasc2_rc


